US04780477
By using 1-(3-diisopropylaminopropyl)-5-methylisatin and semicarbazide hydrochloride, a method analogous to that described in Example 4 was carried out to obtain (E)-1-(3-diisopropylaminopropyl)-5-methylisatin 3-semicarbazone having a melting point of 145°-148° C. (yield: 72.2%).

reactant | 1-(3-diisopropylaminopropyl)-5-methylisatin | C(C)(C)N(CCCN1C(=O)C(=O)C2=CC(=CC=C12)C)C(C)C | C18H26N2O2
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | (E)-1-(3-diisopropylaminopropyl)-5-methylisatin 3-semicarbazone | yield: 72.2% | C(C)(C)N(CCCN1C(=O)/C(/C2=CC(=CC=C12)C)=N/NC(=O)N)C(C)C | C19H29N5O2
